US05849945
Preparation process of 2-acetylamino-8-amino-6 -fluoro-5-methyl-l-tetralone
To 8.0 g of 2,8-diacetylamino-6-fluoro-5-methyl-1 -tetralone, 120 ml of a 20% aqueous solution of hydrochloric acid were added and the mixture was stirred at an external temperature of 60° C. for 2 hours. After the completion of the reaction, the reaction mixture was cooled and was added with 100 ml of water. The resulting mixture was filtered through a Kiriyama funnel. To the filtrate, further 100 ml of water were added, followed by extraction with chloroform. To the chloroform layer so obtained, potassium carbonate and Florisil were added and they were stirred for a while. The resulting mixture was filtered and then, the solvent was removed under reduced pressure. The residue so obtained was recrystallized from chloroform-diethyl ether, whereby 3.4 g of the title compound was obtained.

reactant | 2,8-diacetylamino-6-fluoro-5-methyl-1 -tetralone | 8.0 g | C(C)(=O)NC1C(C2=C(C=C(C(=C2CC1)C)F)NC(C)=O)=O | C15H17FN2O3
reactant | hydrochloric acid | Cl | ClH
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | Florisil | [O-][Si](=O)[O-].[Mg+2]
solvent | water | 100 ml | O | H2O
product | 2-acetylamino-8-amino-6 -fluoro-5-methyl-l-tetralone | 3.4 g | C(C)(=O)NC1C(C2=C(C=C(C(=C2CC1)C)F)N)=O | C13H15FN2O2
